US04695649
Into a 500 ml four-neck flask equipped with a condenser tube and a thermometer are charged 56 g of benzyl p-hydroxybenzoate, 25 g of triethylamine and 160 ml of toluene. A solution of 25 g of phthalic dichloride in 100 ml of toluene is added dropwise with stirring while maintaining the mixture at 0°-3° C. over 3 hours. After addition, the mixture is further allowed to react at 0°-3° C. for 1 hour. Then the reaction product is filtered, the filtrate solution is washed with 500 ml of water twice and concentrated under diminished pressure to distill the toluene off, and thereafter, 100 ml of hexane is added to the solution with stirring to give white crystals. The product is recrystallized from a mixture solvent of hexane-ethyl acetate (1:1) to yield di(p-benzyloxycarbonylphenyl)phthalate melting at 100°-103° C. as white crystals.

reactant | benzyl p-hydroxybenzoate | 56 g | OC1=CC=C(C(=O)OCC2=CC=CC=C2)C=C1 | C14H12O3
reactant | triethylamine | 25 g | C(C)N(CC)CC | C6H15N
reactant | phthalic dichloride | 25 g | C(C=1C(C(=O)Cl)=CC=CC1)(=O)Cl | C8H4Cl2O2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 160 ml | C1(=CC=CC=C1)C | C7H8
product | di(p-benzyloxycarbonylphenyl)phthalate | C(C1=CC=CC=C1)OC(=O)C1=CC=C(C=C1)OC(C=1C(C(=O)OC2=CC=C(C=C2)C(=O)OCC2=CC=CC=C2)=CC=CC1)=O | C36H26O8
